US09421205B2
(d) Methyl 2-(2-((2-((4-(4-((tert-butoxycarbonyl)amino)piperidin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethynyl)phenyl)acetate (I77)
A suspension of tert-butyl(1-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidin-4-yl)carbamate (I76) (550 mg, 1.17 mmol), CuI (15 mg, 0.12 mmol), triphenylphosphine (31 mg, 0.117 mmol) and triethylamine (487 μL, 3.50 mmol) in DMF (6 mL) was sonicated for 5 minutes in a 10 mL microwave vial, to this PdCl2(PPh3)2 (54.0 mg, 0.077 mmol) and methyl 2-(2-ethynylphenyl)acetate (I4) (305 mg, 1.75 mmol) were added and the reaction heated to 120° C. for 20 minutes under microwave irradiation. Upon cooling the reaction mixture was chromatographed on silica gel using gradient elution (0-100% ethyl acetate in petroleum benzine 40-60° C.) to yield a mixture of the title compound (I77) and homo-coupled acetylene which was used without further purification.

reactant | tert-butyl(1-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidin-4-yl)carbamate | 1.17 mmol, 550 mg | C(C)(C)(C)OC(NC1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)Cl)C(F)(F)F)=O | C21H25ClF3N5O2
reactant | triphenylphosphine | 0.117 mmol, 31 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 3.50 mmol, 487 μL | C(C)N(CC)CC | C6H15N
reactant | methyl 2-(2-ethynylphenyl)acetate | 1.75 mmol, 305 mg | C(#C)C1=C(C=CC=C1)CC(=O)OC | C11H10O2
reactant | acetylene | C#C | C2H2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.12 mmol, 15 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.077 mmol, 54.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 2-(2-((2-((4-(4-((tert-butoxycarbonyl)amino)piperidin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethynyl)phenyl)acetate | C(C)(C)(C)OC(=O)NC1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F | C32H34F3N5O4
